US08735584B2
Methyl 1-chloro-6-oxo-5,6-dihydrobenzo[c][1,8]naphthyridine-9-carboxylate (277)
The title compound was synthesized according to the procedure described for the preparation of Example 1 using 4-chloro-3-iodopyridin-2-amine and 2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-terephthalic acid dimethyl ester to provide 277. LC-MS (M+H=289, obsd.=289).

reactant | 4-chloro-3-iodopyridin-2-amine | ClC1=C(C(=NC=C1)N)I | C5H4ClIN2
reactant | 2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-terephthalic acid dimethyl ester | COC(C1=C(C=C(C(=O)OC)C=C1)B1OC(C(O1)(C)C)(C)C)=O | C16H21BO6
product | Methyl 1-chloro-6-oxo-5,6-dihydrobenzo[c][1,8]naphthyridine-9-carboxylate | ClC1=C2C3=C(C(NC2=NC=C1)=O)C=CC(=C3)C(=O)OC | C14H9ClN2O3
